* Z:\celera\projects\Simplis\playbrian\verif301a\verification\sim_vbuffer301a.sxsch
*#SIMETRIX
X$CV 12 celera vars: simulation_module='name' status='dev' simulation='typical'

.node_map SIMPV 23
.node_map OUT1 24
.node_map OUT2 26
.node_map OUT3 29
.node_map OUT4 27
.node_map IN1 25
.node_map IN2 28
.node_map IN3 30
.node_map GND 33
.node_map IN4 31
.node_map EN 32
.options
+ PSP_NPT=10001
+ POP_ITRMAX=20
+ POP_OUTPUT_CYCLES=5
+ POP_SHOWDATA
+ SNAPSHOT_INTVL=0
+ SNAPSHOT_NPT=11
+ MIN_AVG_TOPOLOGY_DUR=1a
+ AVG_TOPOLOGY_DUR_MEASUREMENT_WINDOW=128
*.pop TRIG_GATE={{TRIG_GATE}} TRIG_COND=0_TO_1 MAX_PERIOD=1u CONVERGENCE=1p CYCLES_BEFORE_LAUNCH=5 TD_RUN_AFTER_POP_FAILS=-1
.tran 300u 0
.globalvar REF=1.0
.globalvar TEMP=25
.globalvar VIN=5
.globalvar tdext_khz=1000


X$U1 0 celera vars: simulation_module='name' status='dev' simulation='typical'
X$vbuffer301a 23 24 25 26 28 29 30 27 31 32 vbuffer301a
** From Z:\celera\projects\Simplis\playbrian\verif301a\verification\FORCE_vbuffer301a.sxcmp


** From Z:\celera\projects\Simplis\playbrian\verif301a\design\vbuffer301a.sxcmp
.subckt vbuffer301a 45 46 47 48 49 50 51 52 53 54
*#hierarchy
.node_map SIMPV 45
.node_map OUT1 46
.node_map OUT2 48
.node_map OUT3 50
.node_map OUT4 52
.node_map IN1 47
.node_map IN2 49
.node_map IN3 51
.node_map IN4 53
.node_map EN 54
X$pinprobe1 46 pinprobe vars: pinprobe_description='Buffer_1_output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe10 54 pinprobe vars: pinprobe_description='Enable' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe2 48 pinprobe vars: pinprobe_description='Buffer_2_output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe3 50 pinprobe vars: pinprobe_description='Buffer_3_output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe4 52 pinprobe vars: pinprobe_description='Buffer_4_output' pinprobe_mode='output' pinprobe_input='tbd' pinprobe_output='pad' pinprobe_bits=1
X$pinprobe5 45 pinprobe vars: pinprobe_description='Power_Supply_in' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe6 47 pinprobe vars: pinprobe_description='Buffer_1_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe7 49 pinprobe vars: pinprobe_description='Buffer_2_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe8 51 pinprobe vars: pinprobe_description='Buffer_3_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$pinprobe9 53 pinprobe vars: pinprobe_description='Buffer_4_input' pinprobe_mode='input' pinprobe_input='pad' pinprobe_output='tbd' pinprobe_bits=1
X$U1 39 celeranoconn vars: ='%'
X$U2 42 celeranoconn vars: ='%'
X$U3 40 celeranoconn vars: ='%'
X$U4 44 celeranoconn vars: ='%'
X$vbuffer1 45 39 47 46 54 37 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='text' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='no' vbuffer_dft='no' vbuffer_gain=1 vbuffer_feedbackimpedance=1k vbuffer_vmax=6
X$vbuffer2 45 42 49 48 54 41 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='text' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='no' vbuffer_dft='no' vbuffer_gain=2 vbuffer_feedbackimpedance=1000 vbuffer_vmax=6
X$vbuffer3 45 40 51 50 54 38 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='text' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='no' vbuffer_drive='internal' vbuffer_gndsense='no' vbuffer_dft='no' vbuffer_gain=500m vbuffer_feedbackimpedance=1000 vbuffer_vmax=6
X$vbuffer4 45 44 53 52 54 43 vbuffer vars: vbuffer_accuracy='no' vbuffer_datasheet_name='text' vbuffer_datasheet_description='text' vbuffer_type='p' vbuffer_inputbuffer='yes' vbuffer_drive='internal' vbuffer_gndsense='no' vbuffer_dft='no' vbuffer_gain=500m vbuffer_feedbackimpedance=1000 vbuffer_vmax=6
.ends vbuffer301a

.end
